US04203987
2,3,4,4a-Tetrahydro-3-[2-(4-Pyridinyl)Ethyl]-8-Trifluoromethyl-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One
A solution of 9.0 g. of 2,3,4,4a-tetrahydro-8-trifluoromethyl-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one, 18 ml. of 4-vinylpyridine and 7 ml. of acetic acid was refluxed in 250 ml. of methanol overnight. The solvent was removed and the residue was precipitated with water. The precipitate was filtered and recrystallized from ethanol-water to yield 9.2 g. of the free base, m.p. 204°-206° C. 4 G. of this free base was dissolved in ethanol and treated with dry hydrogen chloride saturated ethanol. The product hydrogen chloride salt was filtered and recrystallized once from i-propanol and once from ethanol to yield 3.4 g. of the dihydrochloride salt of the title compound, m.p. 218°-221° C.

reactant | 2,3,4,4a-tetrahydro-8-trifluoromethyl-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one | FC(C=1C=C2NC(C3N(C2=CC1)CCNC3)=O)(F)F | C12H12F3N3O
reactant | 4-vinylpyridine | C(=C)C1=CC=NC=C1 | C7H7N
reactant | hydrogen chloride | Cl | ClH
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | ethanol | C(C)O | C2H6O
solvent | methanol | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,3,4,4a-Tetrahydro-3-[2-(4-Pyridinyl)Ethyl]-8-Trifluoromethyl-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One | N1=CC=C(C=C1)CCN1CC2N(C3=CC=C(C=C3NC2=O)C(F)(F)F)CC1 | C19H19F3N4O
